US04021229
Preparation of N-(β-chloroethyl)-benzene sulfonamide
40.2 g. of N-(β-hydroxyethyl)-benzene sulfonamide was slurried in 100 ml. of carbon tetrachloride containing 5 drops of piperidine. Then, 47.6 g. of sulfonyl chloride was added over 10 minutes, keeping the temperature at 20°-25° C. during the addition. The reaction was completed by heating on a steam bath for one hour. The mixture was concentrated on the steam bath, dissolved in benzene and washed twice with dilute aqueous solution of sodium chloride, dried over magnesium sulfate, filtered and the benzene evaporated on the steam bath with air. The product was crystallized from benzene cyclohexane to yield 28.0 g. of product, m.p. 58°-62° C.

reactant | N-(β-hydroxyethyl)-benzene sulfonamide | OCCNS(=O)(=O)C1=CC=CC=C1 | C8H11NO3S
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
catalyst | carbon tetrachloride | 5 drops | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-(β-chloroethyl)-benzene sulfonamide | ClCCNS(=O)(=O)C1=CC=CC=C1 | C8H10ClNO2S
